US09120749B2
1-{6-(3,5-Dichloro-4-hydroxyphenyl)-4-[trans-4-((dimethylamino)methyl)cyclohexylamino]quinolin-3-yl}ethanone hydrochloride
To a suspension of 1-{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-((dimethylamino)methyl)cyclohexylamino]quinolin-3-yl}ethanone (200 mg, 0.410 mmol) in methanol (20 mL) was added 1M HCl in water (1.03 mL, 1.03 mmol). The resultant solution was concentrated to an approximate volume of 5 mL. The precipitate was washed with acetonitrile to obtain the desired product as the hydrochloride salt (200 mg) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.05 (s, 1H), 8.43 (d, J=1.9 Hz, 1H), 8.18 (dd, J=8.7, 1.9 Hz, 1H), 7.96 (d, J=8.7 Hz, 1H), 7.70 (s, 2H), 4.46-4.38 (m, 1H), 3.07 (d, J=6.6 Hz, 2H), 2.92 (s, 6H), 2.73 (s, 3H), 2.44 (d, J=12.2 Hz, 2H), 2.08-1.98 (m, 3H), 1.82-1.70 (m, 2H), 1.40-1.28 (m, 2H); ESI MS m/z 486 [C26H29Cl2N3O2+H]+; HPLC>99% (AUC), tR=9.94 min.

reactant | 1-{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-((dimethylamino)methyl)cyclohexylamino]quinolin-3-yl}ethanone | 0.410 mmol, 200 mg | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | C26H29Cl2N3O2
reactant | HCl | 1M | Cl | ClH
reactant | water | 1.03 mmol, 1.03 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 1-{6-(3,5-Dichloro-4-hydroxyphenyl)-4-[trans-4-((dimethylamino)methyl)cyclohexylamino]quinolin-3-yl}ethanone hydrochloride | Cl.ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | InChI=1S/C26H29Cl2N3O2.ClH/c1-15(32)21-13-29-24-9-6-17(18-11-22(27)26(33)23(28)12-18)10-20(24)25(21)30-19-7-4-16(5-8-19)14-31(2)3;/h6,9-13,16,19,33H,4-5,7-8,14H2,1-3H3,(H,29,30);1H/t16-,19-;
